US05155122
To a solution of 2,6-bis(1,1-dimethylethy)-4-[5-(methylsulfonyl)-1,3,4-thiadiazole-2-yl]phenol (4.0 g, 0.0109 mole) in isopropyl alcohol (15 ml) is added ethanolamine (1.9 g, 0.0326 mole). The resulting mixture is heated to reflux for 18 hours. The reaction is cooled and concentrated in vacuo. The resulting solid is recrystallized from methanol/water to give 3.2 g (3.8 g theor., 83%) of 2,6-bis(1,1-dimethylethyl)-4-[5-[(2-hydroxyethyl)amino]-1,3,4-thiadiazol-2-yl]phenol after drying in vacuo at 65° C., mp 212°-213.5° C.

reactant | 2,6-bis(1,1-dimethylethy)-4-[5-(methylsulfonyl)-1,3,4-thiadiazole-2-yl]phenol | 0.0109 mole, 4.0 g | CC(C)(C)C1=C(C(=CC(=C1)C=1SC(=NN1)S(=O)(=O)C)C(C)(C)C)O | C17H24N2O3S2
reactant | ethanolamine | 0.0326 mole, 1.9 g | C(O)CN | C2H7NO
solvent | isopropyl alcohol | 15 ml | C(C)(C)O | C3H8O
product | 2,6-bis(1,1-dimethylethyl)-4-[5-[(2-hydroxyethyl)amino]-1,3,4-thiadiazol-2-yl]phenol | 3.2 g, 83% | CC(C)(C)C1=C(C(=CC(=C1)C=1SC(=NN1)NCCO)C(C)(C)C)O | C18H27N3O2S
